US04124596
A homogeneous mixture of 3-(5-carboxythieno[2,3-b]thien-2-yl)carbonyl-phenylacetic acid (24 g), copper powder (4 g) and Fontainebleau sand (100 g) is heated at 290° C. for 1 hour. After cooling, the reaction mixture is washed five times with methylene chloride (total 350 cc). The combined methylene chloride phases are extracted five times with a 10% (w/v) aqueous solution of sodium carbonate (total 400 cc). The combined alkaline liquors are stirred with decolourizing charcoal (1 g), filtered, acidified to pH 1 by addition of a 12N concentrated aqueous solution of hydrogen chloride, and extracted three times with methylene chloride (total 300 cc). The combined methylene chloride solutions are dried over anhydrous sodium sulphate and evaporated. The residue (17.3 g) is dissolved in boiling acetonitrile (50 cc) and the solution is filtered. After cooling for 1 hour at 4° C., the resulting crystals are filtered off, washed three times with iced acetonitrile (total 15 cc) and dried under reduced pressure (20 mm Hg) at a temperature of about 20° C., in the presence of potassium hydroxide pellets used as a dehydrating agent. Crude 3-(thieno[2,3-b]thien-2-yl)carbonyl-phenylacetic acid (10.6 g), melting at 121° C., is thus obtained.

reactant | 3-(5-carboxythieno[2,3-b]thien-2-yl)carbonyl-phenylacetic acid | 24 g | C(=O)(O)C1=CC2=C(S1)SC(=C2)C(=O)C=2C=C(C=CC2)CC(=O)O | C16H10O5S2
catalyst | copper | 4 g | [Cu] | Cu
product | 3-(thieno[2,3-b]thien-2-yl)carbonyl-phenylacetic acid | 10.6 g | S1C(=CC2=C1SC=C2)C(=O)C=2C=C(C=CC2)CC(=O)O | C15H10O3S2
